US05756505
1-(4-benzyloxy-3-isobutylbenzoyl)-4-isobutylpiperazine (6.78 g) was dissolved in ethanol (250 ml) and then, with 10% palladium charcoal (0.14 g) added thereto, the mixture was stirred at room temperature for 24 hours in a hydrogen gas atmosphere. After the reaction mixture was filtered under a suction, the filtrate was concentrated under a vacuum, thereby yielding 4.73 g of 1-(4-hydroxy-3-isobutylbenzoyl)-4-isobutylpiperazine. In acetone (50 ml), this compound (0.96 g), 2-fluorobenzyl bromide (0.68 g), and potassium carbonate (0.83 g) of were refluxed with stirring for 4 hours. The reaction mixture, with water added thereto, was extracted with ethyl acetate. The extract was washed with saturated aqueous sodium hydrogencarbonate solution and saturated brine successively, and then dried over sodium sulfate anhydride. The residue obtained after concentration was purified by silica gel column chromatography (ethyl acetate:n-hexane=1:2), thereby yielding 0.90 g of the aimed compound.

reactant | 1-(4-benzyloxy-3-isobutylbenzoyl)-4-isobutylpiperazine | 6.78 g | C(C1=CC=CC=C1)OC1=C(C=C(C(=O)N2CCN(CC2)CC(C)C)C=C1)CC(C)C | C26H36N2O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 250 ml | C(C)O | C2H6O
catalyst | palladium charcoal | 0.14 g | [Pd] | Pd
product | 1-(4-hydroxy-3-isobutylbenzoyl)-4-isobutylpiperazine | 4.73 g | OC1=C(C=C(C(=O)N2CCN(CC2)CC(C)C)C=C1)CC(C)C | C19H30N2O2
